US07109229B2
A 1.0 M solution of KOtBu in THF (8.1 mL, 8.1 mmol) was added to a solution of 2-(1H-indol-3-yl)-acetamide (417 mg, 2.4 mmol) and {1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-7-yl}-oxo-acetic acid methyl ester (774 mg, 2.32 mmol) in DMF (50 mL). The deep red-orange solution was stirred 16 h at room temperature and then 1 h at 65° C. The heating bath was removed and pH 7.0 buffer added. The mixture was poured into EtOAc, the layers separated and the EtOAc solution washed with 0.1 N HCl, water (3×), saturated aq NaHCO3 and brine (3×), dried (MgSO4), filtered and concentrated onto SiO2. Flash chromatography afforded 3-(1H-Indol-3-yl)-4-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-7-yl]-pyrrole-2,5-dione (141 mg, 13%) as a bright orange solid which was dried under vacuum overnight at 70° C., and 3-(1H-Indol-7-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione (165 mg, 22%) as a bright red solid which was dried under vacuum overnight at 70° C.

reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | THF | 8.1 mmol, 8.1 mL | C1CCOC1 | C4H8O
reactant | 2-(1H-indol-3-yl)-acetamide | 2.4 mmol, 417 mg | N1C=C(C2=CC=CC=C12)CC(=O)N | C10H10N2O
reactant | {1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-7-yl}-oxo-acetic acid methyl ester | 2.32 mmol, 774 mg | COC(C(=O)C=1C=CC=C2C=CN(C12)COCC[Si](C)(C)C)=O | C17H23NO4Si
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-(1H-Indol-3-yl)-4-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-7-yl]-pyrrole-2,5-dione | 141 mg, 13% | N1C=C(C2=CC=CC=C12)C=1C(NC(C1C=1C=CC=C2C=CN(C12)COCC[Si](C)(C)C)=O)=O | C26H27N3O3Si
